US08975254B2
(S)-3-acetyl-N-(1-(3-(4-cyano-3-(methylthio)phenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide
(S)—5-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-3-carboxamide (64 mg, 0.16 mmol) was placed into a microwave vial. DMF (1 ml) and sodium thiomethoxide (12.4 mg, 0.18 mmol) were added and the reaction mixture was heated in microwave reactor at 150° C. Sodium thiomethoxide was added after 30, 30 and 20 min of heating (12.4 mg, 5.6 mg and 5.6 mg, respectively). After total of 90 min of heating DMF was evaporated, and the evaporation residual was taken up in DCM and washed with water. Organic phase was dried over Na2SO4, filtered and evaporated. Thus obtained crude product was suspended in MeCN. Suspension was filtered to give 9 mg (14%) of the title compound as a colourless solid. Filtrate was purified by CombiFlash (column: C-18 silica, eluent: 0-100% MeCN in water) to yield 13 mg (20%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.11-1.20 (m, 3H), 2.49 (s, 3H, overlap with DMSO) 2.57-2.64 (m, 3H), 4.20-4.55 (m, 3H), 6.91 (s, 1H), 7.31 (s, 1H), 7.62-7.89 (m, 4H), 8.47 (dd, 1H), 14.2 (d, 1H).

reactant | (S)—5-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-3-carboxamide | 0.16 mmol, 64 mg | C(C)(=O)C1=CC(=NN1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C19H17ClN6O2
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | sodium thiomethoxide | 0.18 mmol, 12.4 mg | C[S-].[Na+]
solvent | MeCN | CC#N | C2H3N
product | (S)-3-acetyl-N-(1-(3-(4-cyano-3-(methylthio)phenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | 9 mg, 14% | C(C)(=O)C1=NNC(=C1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)SC)C | C20H20N6O2S
